US07041826B2
Lithium aluminium hydride (3.04 g, 0.8 moles) was suspended in tetrahydrofuran (60 ml) under nitrogen atmosphere. A solution of 1-methyl-2-oxo-3-phenylpiperazine (10 g in 10 ml of tetrahydrofuran) was added at 10–15° C. Slowly, raised the temperature of reaction mass and refluxed for 2 hours. Cooled the reaction mass to 5° C. and quenched successively with 3 ml of water, 3 ml of 15% aqueous sodium hydroxide solution and 9 ml of water. Reaction mass was stirred for 1 hour at 25–30° C. Filtered the reaction mass and the filtrate was concentrated under reduced pressure. Dissolved the residue in DM water (25 ml) and concentrated hydrochloric acid (8 ml) and the solution was washed with cyclohexane (20 ml). pH was adjusted to 11.0–12.0 with 50% w/w aqueous sodium hydroxide solution and extracted the product with methylene chloride (2×50 ml). Methylene chloride layer was concentrated under reduced pressure and 7.54 g of pure 1-Methyl-3-phenylpiperazine was isolated in cyclohexane having HPLC purity 99.7%.

reactant | Lithium aluminium hydride | 0.8 moles, 3.04 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-methyl-2-oxo-3-phenylpiperazine | 10 ml, 10 g | CN1C(C(NCC1)C1=CC=CC=C1)=O | C11H14N2O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 1-Methyl-3-phenylpiperazine | 7.54 g | CN1CC(NCC1)C1=CC=CC=C1 | C11H16N2
